US09029536B2
B) Ethyl 3-{4-(1-ethyl-1H-pyrazolo[4,3-b]pyridin-3-yl)phenyl}-3-(1-[{2-(trimethylsilyl)ethoxy}methyl]-1H-benzo[d]imidazol-2-yl)acrylate
A mixture of 3-bromo-1-ethyl-1H-pyrazolo[4,3-b]pyridine (300 mg), ethyl 3-{4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl}-3-(1-[{2-(trimethylsilyl)ethoxy}methyl]-1H-benzo[d]imidazol-2-yl)acrylate (1456 mg), Pd(PPh3)4 (77 mg), 2 M Na2CO3 aqueous solution (1.991 mL) and THF (4 mL) was heated at 150° C. for 30 min under microwave irradiation. The reaction mixture was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/AcOEt) to give the title compound (670 mg).

reactant | 3-bromo-1-ethyl-1H-pyrazolo[4,3-b]pyridine | 300 mg | BrC1=NN(C=2C1=NC=CC2)CC | C8H8BrN3
reactant | ethyl 3-{4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl}-3-(1-[{2-(trimethylsilyl)ethoxy}methyl]-1H-benzo[d]imidazol-2-yl)acrylate | 1456 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C(=CC(=O)OCC)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2)C | C30H41BN2O5Si
reactant | Na2CO3 | 2 M, 1.991 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 77 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | Ethyl 3-{4-(1-ethyl-1H-pyrazolo[4,3-b]pyridin-3-yl)phenyl}-3-(1-[{2-(trimethylsilyl)ethoxy}methyl]-1H-benzo[d]imidazol-2-yl)acrylate | 670 mg | C(C)N1N=C(C2=NC=CC=C21)C2=CC=C(C=C2)C(=CC(=O)OCC)C2=NC1=C(N2COCC[Si](C)(C)C)C=CC=C1 | C32H37N5O3Si
